US05229400
1-Cyclohexyl-4-[4-(10,11-dihydroxy-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinyl]butane
A osmium tetraoxide (0.4 mmol) in acetone was added to the 50% aqueous solution of acetone dissolved in 1-Cyclohexyl-4-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinyl)butane (4.8 mmol) and N-methylmorpholine-N-oxide (7.2 mmol). The mixture was stirred for over night at ambient temperature.

reactant | 1-Cyclohexyl-4-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinyl)butane | 4.8 mmol | C1(CCCCC1)CCCCN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C30H37N
reactant | N-methylmorpholine-N-oxide | 7.2 mmol | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | CC(=O)C | C3H6O
catalyst | osmium tetraoxide | 0.4 mmol | [Os](=O)(=O)(=O)=O
product | 1-Cyclohexyl-4-[4-(10,11-dihydroxy-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinyl]butane | C1(CCCCC1)CCCCN1CCC(CC1)=C1C2=C(C(=C(C3=C1C=CC=C3)O)O)C=CC=C2 | C30H37NO2
